US05008454
Synthesis of 1-bromo-8-[3-(octadecyloxy)propoxy]octane:
Using 3-(octadecyloxy)propanol (5 g), 1,8-dibromooctane (12.7 g), cetyltrimethylammonium chloride (0.96 g) and a 50% aqueous solution of sodium hydroxide (12 g), a reaction is conducted in the same manner as that in Reference Example 4 to give the above-titled compound as colorless solid (4.2 g).

reactant | 3-(octadecyloxy)propanol | 5 g | C(CCCCCCCCCCCCCCCCC)OCCCO | C21H44O2
reactant | 1,8-dibromooctane | 12.7 g | BrCCCCCCCCBr | C8H16Br2
reactant | sodium hydroxide | 12 g | [OH-].[Na+]
catalyst | cetyltrimethylammonium chloride | 0.96 g | [Cl-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
product | 1-bromo-8-[3-(octadecyloxy)propoxy]octane | 4.2 g | BrCCCCCCCCOCCCOCCCCCCCCCCCCCCCCCC | C29H59BrO2
